US09210927B2
Step 1. 5-Vinyl-1H-indole (BI18)
A mixture of 5-bromo-1H-indole (2.5 g, 12.82 mmol), potassium vinyltrifluoroborate (2.57 g, 19.2 mmol), Cs2CO3 (12.53 g, 38.46 mmol) and triphenylphosphine (201 mg, 0.769 mmol) in THF/water (9:1, 75 ml) was degassed with argon for 20 min, then charged with PdCl2 (45.3 mg, 0.256 mmol). The reaction mixture was heated to reflux for 16 h, then cooled to ambient temperature, filtered through celite bed and washed with ethyl acetate. The filtrate was again extracted with ethyl acetate, and the combined organic layer washed with water and brine, dried over Na2SO4 and concentrated under reduced pressure to afford the crude compound. The crude compound was purified by column chromatography (SiO2, 100-200 mesh; 2% ethyl acetate/petroleum ether) to afford the title compound as a light brown gummy material (1.5 g, 83%): 1H NMR (400 MHz, CDCl3) δ 8.20 (br, 1H), 7.68 (s, 1H), 7.45 (s, 2H), 7.21 (m, 1H), 6.90 (dd, J=16.0, 10.8 Hz, 1H), 6.55 (m, 1H), 5.75 (d, J=10.5 Hz, 1H), 5.21 (d, J=10.5 Hz, 1H); ESIMS m/z 142.05 ([M−H]−).

reactant | 5-bromo-1H-indole | 12.82 mmol, 2.5 g | BrC=1C=C2C=CNC2=CC1 | C8H6BrN
reactant | potassium vinyltrifluoroborate | 19.2 mmol, 2.57 g | C(=C)[B-](F)(F)F.[K+]
reactant | Cs2CO3 | 38.46 mmol, 12.53 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | triphenylphosphine | 0.769 mmol, 201 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF water | 75 ml | C1CCOC1.O
catalyst | PdCl2 | 0.256 mmol, 45.3 mg | Cl[Pd]Cl
product | 5-Vinyl-1H-indole | C(=C)C=1C=C2C=CNC2=CC1 | C10H9N
